### PR TITLE
[Merged by Bors] - feat(NumberTheory/DirichletCharacter): characterise conductor set as multiples of conductor

### PR DESCRIPTION
**Pull request by xroblot**
Add two lemmas about Dirichlet character conductor sets :
- `FactorsThrough.mono`: if `χ` factors through `d` and `d ∣ m ∣ n`, then `χ` factors through `m`.
- `mem_conductorSet_iff_conductor_dvd`: for` d ∣ n`, `d ∈ χ.conductorSet` iff `χ.conductor ∣ d`.

---

- [x] depends on: #37425

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 1]
```diff
@@ -323,6 +332,14 @@ theorem conductor_dvd_of_mem_conductorSet {d : ℕ} (hn : n ≠ 0) (hd : d ∈ 
     changeLevel_trans _ hd (n.dvd_mul_left (d * χ.conductor)), ← hχ₀,
     changeLevel_trans χ.primitiveCharacter χ.conductor_dvd_level, changeLevel_primitiveCharacter]
 
+/-- A divisor `d` of `n` belongs to the conductor set of `χ` if and only if the conductor of `χ`
+divides `d`. -/
+theorem mem_conductorSet_iff_conductor_dvd (hn : n ≠ 0) {d : ℕ} (hd : d ∣ n) :
+    d ∈ χ.conductorSet ↔ χ.conductor ∣ d := by
+  refine ⟨fun h ↦ conductor_dvd_of_mem_conductorSet χ hn h, fun h ↦ ?_⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]:
```suggestion
  refine ⟨conductor_dvd_of_mem_conductorSet χ hn, fun h ↦ ?_⟩
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -323,6 +332,14 @@ theorem conductor_dvd_of_mem_conductorSet {d : ℕ} (hn : n ≠ 0) (hd : d ∈ 
     changeLevel_trans _ hd (n.dvd_mul_left (d * χ.conductor)), ← hχ₀,
     changeLevel_trans χ.primitiveCharacter χ.conductor_dvd_level, changeLevel_primitiveCharacter]
 
+/-- A divisor `d` of `n` belongs to the conductor set of `χ` if and only if the conductor of `χ`
+divides `d`. -/
+theorem mem_conductorSet_iff_conductor_dvd (hn : n ≠ 0) {d : ℕ} (hd : d ∣ n) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: Why does this use `n ≠ 0` and not `[NeZero n]` (like the other result above)? (Likely answer: because the other nearby results do as well.)
Would it make sense to use `[NeZero n]` more consistently?

Comment (xroblot) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: Yeah, it's a bit of a mess with sometimes `n ≠ 0` and sometimes `[NeZero n]` and your likely answer is probably the correct one. Let me do first a refactor to use `[NeZero n]` everywhere in this file.

Comment (xroblot) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: #37425

**Comment by MichaelStollBayreuth** [comment]
LGTM!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
